US05374373
To a mixture of 50% sodium hydroxide (40 g), (S)-epichlorohydrin (24 g) and tetrabutyl ammonium hydrogen sulfate (400 mg) is added dropwise n-hexanol (6 ml) while cooling at 20°-25° C. After stirring the reaction mixture at the same temperature for additional 3 hours, water is added to the mixture and the product is extracted with ether. The extract is purified by distillation under reduced pressure to give (S)-n-hexylglycidyl ether (3.35 g).

reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | (S)-epichlorohydrin | 24 g | C(Cl)[C@@H]1CO1 | C3H5ClO
reactant | n-hexanol | 6 ml | C(CCCCC)O | C6H14O
catalyst | tetrabutyl ammonium hydrogen sulfate | 400 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | (S)-n-hexylglycidyl ether | 3.35 g | C(CCCCC)OC[C@@H]1CO1 | C9H18O2
